US06867207B2
n-Butyl lithium (0.045 mol) was added at −70° C. under N2 flow to a solution of 4-phenyl-thiazole (0.045 mol) in diethyl ether (50 ml). The mixture was stirred at −70° C. for 90 minutes. A solution of 2-[3-chloro-4-(4-chlorobenzoyl)phenyl]-1,2,4-triazine-3,5-(2H,4H)-dione (0.015 mol) in THF (10 ml) was added at −70° C. The mixture was stirred at −70° C. for 1 hour, then poured out into ice water, neutralized with HCl 3N and extracted with EtOAc. The organic layer was separated, dried, filtered and the solvent was evaporated. The residue was purified by column chromatography oversilica gel (eluent: CH2Cl2/CH3OH 98/2). The desired fraction was repurified by HPLC (eluent: CH3OH/(NH4OAc 1% in H2O) 80/20). The pure fractions were collected and the solvent was evaporated, yielding 0.83 g (11%) of (±)-2-[3-chloro-4-[(4-chlorophenyl)hydroxy(4-phenyl-2-thiazolyl)methyl]phenyl]-1,2,4-triazine-3,5(2H,4H)-dione (interm. 71).

reactant | n-Butyl lithium | 0.045 mol | C(CCC)[Li]
reactant | 4-phenyl-thiazole | 0.045 mol | C1(=CC=CC=C1)C=1N=CSC1 | C9H7NS
reactant | 2-[3-chloro-4-(4-chlorobenzoyl)phenyl]-1,2,4-triazine-3,5-(2H,4H)-dione | 0.015 mol | ClC=1C=C(C=CC1C(C1=CC=C(C=C1)Cl)=O)N1N=CC(NC1=O)=O | C16H9Cl2N3O3
reactant | HCl | 3N | Cl | ClH
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (±)-2-[3-chloro-4-[(4-chlorophenyl)hydroxy(4-phenyl-2-thiazolyl)methyl]phenyl]-1,2,4-triazine-3,5(2H,4H)-dione | 0.83 g, 11% | ClC=1C=C(C=CC1C(C=1SC=C(N1)C1=CC=CC=C1)(O)C1=CC=C(C=C1)Cl)N1N=CC(NC1=O)=O | C25H16Cl2N4O3S
